US08049006B2
3-[1-({[6-(5-chloro-2-methoxybenzyl)-6-fluoro-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoic Acid (Compound 176)
(Step 4) To the obtained benzyl 3-[1-({[6-(5-chloro-2-methoxybenzyl)-6-fluoro-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoate (20 mg) in tetrahydrofuran (1 ml) solution, platinum oxide (6 mg) was added and the mixture was stirred under hydrogen atmosphere at room temperature for 1.5 hours. Next, the catalyst was filtered out. and the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform/ethyl acetate/methanol/acetic acid=8/8/1/0.1) to obtain the title compound (9.3 mg).

reactant | benzyl 3-[1-({[6-(5-chloro-2-methoxybenzyl)-6-fluoro-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoate | 20 mg | ClC=1C=CC(=C(CC2(CNC(CN(C2=O)C(=O)NC(CC)C=2C=C(C(=O)OCC3=CC=CC=C3)C=CC2)=O)F)C1)OC | C31H31ClFN3O6
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | platinum oxide | 6 mg | [Pt]=O
product | 3-[1-({[6-(5-chloro-2-methoxybenzyl)-6-fluoro-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoic Acid | 9.3 mg | ClC=1C=CC(=C(CC2(CNC(CN(C2=O)C(=O)NC(CC)C=2C=C(C(=O)O)C=CC2)=O)F)C1)OC | C24H25ClFN3O6
